US06992187B2
1a) 1-tert-Butyl 4-pentafluorophenyl piperidine-1,4-dicarboxylate
100 g (436 mmol) of piperidine-1,4-dicarboxylic acid 1-tert butyl ester were dissolved in 1.3 l of anhydrous THF, 39 ml of anhydrous pyridine were added and 86 ml (500 mmol) of pentafluorophenyl trifluoroacetate were added dropwise with stirring and with ice-cooling in the course of 30 minutes, and the mixture was allowed to stand at room temperature for 3 h. The solvent was then stripped off in vacuo and the residue was taken up in about 2 l of EA, extracted twice each with 0.5 N HCl, saturated NaHCO3 solution and saturated NaCl solution, and the organic phase was dried over Na2SO4. After evaporating off the solvent in vacuo, an oil remained which crystallized after addition of heptane. Yield 151.5 g (88%), colorless crystals. M.p. 87–88° C. (heptane).

reactant | piperidine-1,4-dicarboxylic acid 1-tert butyl ester | 436 mmol, 100 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | pyridine | 39 ml | N1=CC=CC=C1 | C5H5N
reactant | pentafluorophenyl trifluoroacetate | 500 mmol, 86 ml | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
solvent | THF | 1.3 l | C1CCOC1 | C4H8O
solvent | EA | about 2 l | CC(OCC)=O | C4H8O2
product | 1-tert-Butyl 4-pentafluorophenyl piperidine-1,4-dicarboxylate | CC(C)(C)OC(=O)N1CCC(CC1)C(=O)OC2=C(C(=C(C(=C2F)F)F)F)F | C17H18F5NO4
